US07482340B2
6-Hydroxy-2-(3-hydroxyphenyl)chroman-4-one was prepared as described for 6-hydroxy-2-(4-fluorophenyl)chroman-4-one in Example 2(a) but starting from 3-hydroxybenzaldehyde. The product was recrystallised from ethanol. 1H NMR (400 MHz, d6-DMSO) δ: 9.50 (bs, 1H), 9.41 (bs, 1H), 7.22-7.17 (m, 1H), 7.11 (d, 1H, J 3.0 Hz), 7.03 (dd, 1H J 3.0, 8.9 Hz), 6.64 (d, 1H, J 8.9 Hz), 6.92-6.90 (m, 2H), 6.76-6.73 (m, 1H), 5.46 (dd, 1H J 2.9, 12.7 Hz), 3.09 (dd, 1H, J 12.7, 16.9 Hz), 2.75 (dd, 1H, J 2.9, 16.9 Hz).

reactant | 6-hydroxy-2-(4-fluorophenyl)chroman-4-one | OC=1C=C2C(CC(OC2=CC1)C1=CC=C(C=C1)F)=O | C15H11FO3
reactant | 3-hydroxybenzaldehyde | OC=1C=C(C=O)C=CC1 | C7H6O2
product | 6-Hydroxy-2-(3-hydroxyphenyl)chroman-4-one | OC=1C=C2C(CC(OC2=CC1)C1=CC(=CC=C1)O)=O | C15H12O4
